US07544697B2
Methanol (39.9 mL), lithium hydroxide (5.06 g, 121 mmol), and water (13.3 mL) were added to ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylate (10.65 g, 30.1 mmol) in a 500 mL round bottom flask. The mixture was stirred vigorously for 5.5 hours. Acetic acid (8.0 mL) and water (200 mL) were added. A white solid formed and more acetic acid (61 mL) was added. The solid was isolated by filtration, washed with water, and dried. A second crop of solid was isolated from the filtrate. The crops were combined to yield 8.77 g of 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylic acid as a white solid, mp 151-152° C. MS (APCI) m/z 326 (M+H)+; Anal. calcd for C16H27N3O4: C, 59.06; H, 8.36; N, 12.91. Found: C, 58.93; H, 8.59; N, 12.94.

reactant | Methanol | 39.9 mL | CO | CH4O
reactant | lithium hydroxide | 121 mmol, 5.06 g | [OH-].[Li+]
reactant | ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylate | 30.1 mmol, 10.65 g | C(C)(C)(C)OC(=O)NC(CC1=CC(=NN1CCC)C(=O)OCC)(C)C | C18H31N3O4
solvent | acetic acid | 61 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
solvent | Acetic acid | 8.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 13.3 mL | O | H2O
product | 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylic acid | 8.77 g | C(C)(C)(C)OC(=O)NC(CC1=CC(=NN1CCC)C(=O)O)(C)C | C16H27N3O4
